US08222416B2
To a solution of tetrabutylammonium bromide (1.05 g, 3.24 mmol) and 5-methoxy-1H-pyrrolo[2,3-b]pyridine (16 g, 108.1 mmol) in dichloromethane (300 mL) at 0° C. was added powdered sodium hydroxide (13 g, 324.3 mmol). The mixture was then stirred at 0° C. for 5 min. Then benzene sulfonyl chloride (18 mL, 140.54 mmol) was added to the above mixture slowly and the resulting mixture was stirred at 0° C. for 15 min before it was warmed to room temperature and stirred for 12 h. The mixture was filtered and the filtrate concentrated in vacuo and then washed with hexane to afford 1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridine (28.8 g, 93%) as a white solid: LC/MS m/e calcd for C14H12N2O3S [M+H]+ 289.33, observed 289.0.

reactant | 5-methoxy-1H-pyrrolo[2,3-b]pyridine | 108.1 mmol, 16 g | COC=1C=C2C(=NC1)NC=C2 | C8H8N2O
reactant | sodium hydroxide | 324.3 mmol, 13 g | [OH-].[Na+]
reactant | benzene sulfonyl chloride | 140.54 mmol, 18 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | tetrabutylammonium bromide | 3.24 mmol, 1.05 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 28.8 g, 93% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)OC | C14H12N2O3S
